US04317775
To a stirred suspension of 6.28 g (0.015) mol) of amoxicillin trihydrate in 150 ml of distilled water was added in one portion 15 ml of 1 N aqueous sodium hydroxide solution. The amoxicillin quickly dissolved and after two minutes 2.25 g (0.025 mol) of tetrahydro-2-furanol was added. After stirring at 25° C. for two minutes the solution was quickly frozen by means of a dry ice-acetone bath and then lyophilized for 22 hr. The resulting product {2S-[2α, 5α, 6β(S*)]}-6-{[2-tetrahydrofuranylamino(4-hydroxyphenyl)acetyl]amino}-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid sodium salt (6.55 g) was obtained as a white powder.

reactant | amoxicillin trihydrate | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)C(=O)O)C.O.O.O
reactant | amoxicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)C(=O)O)C | C16H19N3O5S
reactant | tetrahydro-2-furanol | 0.025 mol, 2.25 g | O1C(CCC1)O | C4H8O2
reactant | sodium hydroxide | 1 N, 15 ml | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 6-{[2-tetrahydrofuranylamino(4-hydroxyphenyl)acetyl]amino}-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid sodium salt | 6.55 g | [Na+].O1C(CCC1)NC(C(=O)NC1C2SC(C(N2C1=O)C(=O)[O-])(C)C)C1=CC=C(C=C1)O | InChI=1S/C20H25N3O6S.Na/c1-20(2)15(19(27)28)23-17(26)14(18(23)30-20)22-16(25)13(21-12-4-3-9-29-12)10-5-7-11(24)8-6-10;/h5-8,12-15,18,21,24H,3-4,9H2,1-2H3,(H,22,25)(H,27,28);/q;+1/p-1
